US06300342B1
1-[3-(4-amidino-phenyl)propionyl]-6-(N-carboxymethyl-phenyl-sulphonamido)-1,2,3,4-tetrahydro-quinoline
370 mg of 1-[3-(4-amidino-phenyl)propionyl]-6-(N-ethoxycarbonylmethyl-phenylsulphonamido)-1,2,3,4-tetrahydro-quinoline are dissolved in 5 ml of ethanol and stirred overnight with 1.6 ml of 1N sodium hydroxide solution. Then the mixture is neutralised with hydrochloric acid, concentrated by evaporation and the residue is chromatographed with methanol over a silica gel column.

reactant | 1-[3-(4-amidino-phenyl)propionyl]-6-(N-ethoxycarbonylmethyl-phenylsulphonamido)-1,2,3,4-tetrahydro-quinoline | 370 mg | C(N)(=N)C1=CC=C(C=C1)CCC(=O)N1CCCC2=CC(=CC=C12)N(S(=O)(=O)C1=CC=CC=C1)CC(=O)OCC | C29H32N4O5S
reactant | sodium hydroxide | 1N, 1.6 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-[3-(4-amidino-phenyl)propionyl]-6-(N-carboxymethyl-phenyl-sulphonamido)-1,2,3,4-tetrahydro-quinoline | C(N)(=N)C1=CC=C(C=C1)CCC(=O)N1CCCC2=CC(=CC=C12)N(S(=O)(=O)C1=CC=CC=C1)CC(=O)O | C27H28N4O5S
